US08030500B2
3-(3-Amino-6-chloro-4-fluoro-1-(2-(trifluoromethyl)pyridin-4-yl)-1H-isoindol-1-yl)phenol
Boron tribromide (0.472 mL, 4.99 mmol) was added to a solution of 6-chloro-4-fluoro-1-(3-methoxyphenyl)-1-(2-(trifluoromethyl)pyridin-4-yl)-1H-isoindol-3-amine (870 mg, 2.00 mmol) in DCM (10 mL) at 0° C. under an argon atmosphere. The cooling bath was removed and the resulting mixture was stirred at rt for 45 min. The mixture was cooled to 0° C. and subsequently ice was added. The pH was adjusted to ˜8 with 4 M aq NaOH. The DCM was removed in vacuo and the resulting residue was extracted with EtOAc. The combined organics were dried over Na2SO4, concentrated and purified on a silica gel column eluted with 0-10% 0.1M NH3 in MeOH in DCM to afford 200 mg (24%) of the title compound.

reactant | Boron tribromide | 4.99 mmol, 0.472 mL | B(Br)(Br)Br | BBr3
reactant | 6-chloro-4-fluoro-1-(3-methoxyphenyl)-1-(2-(trifluoromethyl)pyridin-4-yl)-1H-isoindol-3-amine | 2.00 mmol, 870 mg | ClC1=CC(=C2C(=NC(C2=C1)(C1=CC(=NC=C1)C(F)(F)F)C1=CC(=CC=C1)OC)N)F | C21H14ClF4N3O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-(3-Amino-6-chloro-4-fluoro-1-(2-(trifluoromethyl)pyridin-4-yl)-1H-isoindol-1-yl)phenol | 200 mg, 24% | NC1=NC(C2=CC(=CC(=C12)F)Cl)(C1=CC(=NC=C1)C(F)(F)F)C=1C=C(C=CC1)O | C20H12ClF4N3O
